US05182263
A solution of 8.30 g (0.026 mol) of rac.-2-acetamido-3-[3-hydroxyphenyl)propanoic acid benzyl ester and 10.0 g (0.028 mol) of N-phenyl-N-trifluoromethyl 1,1,1-trifluoromethyl sulfonyl sulfonamide in 110 mL of freshly distilled dichloromethane was cooled in an ice bath and 4.10 mL (0.029 mol) of triethylamine was added dropwise. The resulting mixture was stirred 1 hour at 0° C. and was allowed to warm to room temperature over 2 hours. The mixture was diluted with 250 mL of ethyl acetate and was washed with successive 50 mL portions of water, 1N sodium hydroxide, 1N hydrochloric acid, water, and brine and was dried over magnesium sulfate. Filtration and concentration afforded an oil which was purified by preparative chromatography on a Waters Prep 500 liquid chromatograph fitted with two Prep-Pak silica gel cartridges, eluting with 40% ethyl acetate-hexane to give 10.02 g (85%) of rac.-2-acetamido-3-[3-[(trifluoromethylsulfonyl)oxy]phenyl]propanoic acid benzyl ester.

reactant | rac.-2-acetamido-3-[3-hydroxyphenyl)propanoic acid benzyl ester | 0.026 mol, 8.30 g | C(C1=CC=CC=C1)OC(C(CC1=CC(=CC=C1)O)NC(C)=O)=O | C18H19NO4
reactant | N-phenyl-N-trifluoromethyl 1,1,1-trifluoromethyl sulfonyl sulfonamide | 0.028 mol, 10.0 g | C1(=CC=CC=C1)N(S(=O)(=O)S(=O)(=O)C(F)(F)F)C(F)(F)F | C8H5F6NO4S2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | triethylamine | 0.029 mol, 4.10 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | rac.-2-acetamido-3-[3-[(trifluoromethylsulfonyl)oxy]phenyl]propanoic acid benzyl ester | 10.02 g, 85% | C(C1=CC=CC=C1)OC(C(CC1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F)NC(C)=O)=O | C19H18F3NO6S
